US09416127B2
a) Methyl 1-(5-bromopyridin-2-yl)-1H-1,2,3-triazole-4-carboxylate
In a 10 ml round-bottomed flask, 6-bromotetrazolo[1,5-a]pyridine (209 mg, 1.05 mmol) was dissolved in a mixture of tetrahydrofuran (3.5 ml) and dimethylsulfoxide (0.06 ml) to give an orange solution. Methyl propiolate (265 mg, 276 μl, 3.15 mmol), copper (I) iodide (200 mg, 1.05 mmol) and 2,6-lutidine (225 mg, 245 μl, 2.1 mmol) were added and the reaction mixture was stirred at room temperature overnight. Water was added and the layers were separated using ethyl acetate. The organic layer was washed with 1 N hydrochloric acid and brine, dried over magnesium sulphate and filtered. The filtrate was concentrated under vacuum to yield a brown solid (300 mg), which was adsorbed on silica gel. Purification by flash chromatography (Silica gel, 20 g, 10 to 30% EtOAc in heptane) yielded a light grey solid (255 mg, 86%). MS (ISP): 283.4 ({79Br} [M+H]+), 285.4 ({81Br} [M+H]+).

reactant | 6-bromotetrazolo[1,5-a]pyridine | 1.05 mmol, 209 mg | BrC=1C=CC=2N(C1)N=NN2 | C5H3BrN4
reactant | Methyl propiolate | 3.15 mmol, 276 μl, 265 mg | C(C#C)(=O)OC | C4H4O2
reactant | 2,6-lutidine | 2.1 mmol, 245 μl, 225 mg | N1=C(C=CC=C1C)C | C7H9N
reactant | Water | O | H2O
solvent | tetrahydrofuran | 3.5 ml | O1CCCC1 | C4H8O
solvent | dimethylsulfoxide | 0.06 ml | CS(=O)C | C2H6OS
catalyst | copper (I) iodide | 1.05 mmol, 200 mg | [Cu]I
product | Methyl 1-(5-bromopyridin-2-yl)-1H-1,2,3-triazole-4-carboxylate | 300 mg | BrC=1C=CC(=NC1)N1N=NC(=C1)C(=O)OC | C9H7BrN4O2
